US06717002B2
Synthesis of 6-oxoestrone-methyl Ether
Iodine (560 mg, 2.2 mmol) and 19-nor-4-androstene-3,17-dione (200 mg, 0.735 mmol) were dissolved in methanol (10 mL), and the resultant mixture was stirred for two hours under cooling in an ice-bath. The mixture was maintained at room temperature, and the mixture was further stirred for 1.5 hours, and subsequently refluxed for one hour. The reaction mixture was cooled to room temperature, and an aqueous solution of sodium thiosulfate was added to the mixture. The mixture was extracted with chloroform, and the organic phase was washed sequentially with an aqueous solution of sodium bicarbonate and saturated brine. The washed matter was dried over magnesium sulfate anhydrate, filtered, and evaporated under reduced pressure. The residue was purified through silica gel column chromatography (chloroform), to thereby yield 177 mg of the title compound (yield: 81%).

reactant | Iodine | 2.2 mmol, 560 mg | II | I2
reactant | 19-nor-4-androstene-3,17-dione | 0.735 mmol, 200 mg | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CCC4=CC(=O)CC[C@H]34 | C18H24O2
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | methanol | 10 mL | CO | CH4O
product | 6-oxoestrone methyl Ether | yield 177 mg, yield: 81% | C[C@]12CC[C@H]3[C@H]([C@@H]1CCC2=O)CC(=O)C4=C3C=CC(=C4)O.COC | InChI=1S/C18H20O3.C2H6O/c1-18-7-6-12-11-3-2-10(19)8-14(11)16(20)9-13(12)15(18)4-5-17(18)21;1-3-2/h2-3,8,12-13,15,19H,4-7,9H2,1H3;1-2H3/t12-,13-,15+,18+;/m1./s1
